US05006159
2-Propionyl-3-hydroxy-5-(4-hydroxyphenyl)-cyclohex-2-en-1-one
A solution of 21 g (0.060 mol) of 2-propionyl-3-hydroxy-5-(4-benzyloxyphenyl)cyclohex-2-en-1-one in 250 mL of ethyl acetate and 250 mL of absolute ethanol was treated with 12 mL (0.12 mol) of cyclohexene and 0.7 g of 20 percent palladium hydroxide on carbon (Pearlman's catalyst) and the mixture was heated at reflux for 5 hours. The reaction mixture was cooled slightly and filtered through diatomaceous earth. Evaporation of the filtrate from the mixture gave a crude solid residue. Recrystallization of the residue from a 1:1 ethyl acetate-hexane mixture gave the above named product as a beige crystalline solid in a yield of 13.7 g (88 percent of theoretical). The product melted at 135°-137° C.; Rf-0.45 (silica gel, 10:90 MeOH:CHCl3), 1H NMR (CDCl3): δ1.13 (t, 3H, --CH3), 2.55-3.50 (m, 7H, ring protons and --CH 2 CH3), 6.60-7.12 (m, 5H, ArH's and ArOH), 18.15 (broad s, 1H, and enol H).

reactant | 2-propionyl-3-hydroxy-5-(4-benzyloxyphenyl)cyclohex-2-en-1-one | 0.060 mol, 21 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H22O4
reactant | cyclohexene | 0.12 mol, 12 mL | C1=CCCCC1 | C6H10
reactant | MeOH | CO | CH4O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.7 g | [OH-].[OH-].[Pd+2]
product | 2-Propionyl-3-hydroxy-5-(4-hydroxyphenyl)-cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)O)=O | C15H16O4
